US04499297
2-Pentyl-2-cyclopentenone
A mixture of 184 mg (0.95 mM) of 1-ethynyl-1-pentyl-2-propenyl acetate and 13 mg (0.05 mM) of PdCl2 (CH3CN)2 in 1.2 ml of acetonitrile and 60 μl of glacial acetic acid was heated at 80° during 2 h. 1 Ml of methanol and some crystals of 4-dimethylaminopyridine were added to the reaction mixture and the whole was stirred for 45 minutes at room temperature, whereupon 10 ml of a 1:1 mixture of pentane/ether were added followed by a small quantity of potassium carbonate. The reaction mixture was then stirred for 30 minutes, it was then filtered and evaporated. The obtained residue gave by bulb to bulb distillation 104 mg of a colorless distillate constituted by the desired product having a purity of 92% (yield 66%). By carrying out the reaction in toluene instead of acetonitrile at a temperature of about 80°, the desired product was obtained, though in lower yields.

reactant | 1-ethynyl-1-pentyl-2-propenyl acetate | 0.95 mM, 184 mg | C(C)(=O)OC(C=C)(CCCCC)C#C | C12H18O2
reactant | methanol | CO | CH4O
reactant | pentane ether | CCCCC.CCOCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
solvent | acetic acid | 60 μl | C(C)(=O)O | C2H4O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Pentyl-2-cyclopentenone | yield 66% | C(CCCC)C=1C(CCC1)=O | C10H16O
